US08865713B2
Step A: 2-Nitro-5-propylsulfanyl-4-trifluoromethyl-phenylamine.
To a mixture of 5-chloro-2-nitro-4-trifluoromethyl-phenylamine (1.50 g, 6.26 mmol), potassium carbonate (1.72 g, 12.5 mmol), and DMF (31 mL) was added 1-propanethiol (0.620 mL, 6.86 mmol). The reaction mixture was heated at 90° C. for 16 h, then allowed to cool to 23° C. and poured into ice/brine (300 mL). The resulting yellow precipitate was collected to yield the titled compound (1.67 g, 95%). MS (ESI/CI): mass calcd. for C10H11F3N2O2S, 280.1; m/z found, 281.0 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.41 (s, 1H), 6.58 (s, 1H), 6.36 (br s, 2H), 2.97 (t, J=7.3 Hz, 2H), 1.87-1.72 (m, 2H), 1.10 (t, J=7.4 Hz, 3H).

reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | 6.26 mmol, 1.50 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | potassium carbonate | 12.5 mmol, 1.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-propanethiol | 6.86 mmol, 0.620 mL | C(CC)S | C3H8S
solvent | DMF | 31 mL | CN(C)C=O | C3H7NO
product | 2-Nitro-5-propylsulfanyl-4-trifluoromethyl-phenylamine | 1.67 g, 95% | [N+](=O)([O-])C1=C(C=C(C(=C1)C(F)(F)F)SCCC)N | C10H11F3N2O2S
